US07968720B2
(S)-6-[3-(2,6-Dichloro-4-methyl-phenoxy)-pyrrolidin-1-yl]-5′,6′-dihydro-2′H-[3,4′]bipyridinyl-1′,3′-dicarboxylic Acid 1′-tert-butyl Ester 3′-methyl Ester (C33)
A sol. of (S)-5-bromo-2-[3-(2,6-dichloro-4-methyl-phenoxy)-pyrrolidin-1-yl]-pyridine (8.52 g, 21.2 mmol) in THF (212 mL) at −78° C. was treated with BuLi (1.6M in hexane, 22.1 mL, 35.3 mmol). The mixture was stirred −78° C. for 30 min, and ZnCl2 (1.03M in THF, 41.1 mL, 42.4 mmol) was added. The mixture was allowed to warm up to rt. A sol. of 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester (WO 2004/002957; 9.17 g, 23.5 mmol) in THF (5 mL), and Pd(PPh3)4 (816 mg, 0.701 mmol) were added. The mixture was rapidly heated to 75° C., and stirred at this temperature for 1 h. The mixture was allowed to cool to rt, and aq. sat. NH4Cl was added. The mixture was extracted with EtOAc. The org. extracts were washed with aq. sat. NH4Cl, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (heptane→heptane:EtOAc 65:35) yielded the title compound (6.83 g, 52%). LC-MS: tR=0.92 min, ES+: 562.36.

reactant | (S)-5-bromo-2-[3-(2,6-dichloro-4-methyl-phenoxy)-pyrrolidin-1-yl]-pyridine | 21.2 mmol, 8.52 g | BrC=1C=CC(=NC1)N1C[C@H](CC1)OC1=C(C=C(C=C1Cl)C)Cl | C16H15BrCl2N2O
reactant | BuLi | 35.3 mmol, 1.6M, 22.1 mL | [Li]CCCC
reactant | 4-trifluoromethanesulfonyloxy-5,6-dihydro-2H-pyridine-1,3-dicarboxylic acid 1-tert-butyl ester 3-methyl ester | 23.5 mmol, 9.17 g | COC(=O)C=1CN(CCC1OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C13H18F3NO7S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 212 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 42.4 mmol, 1.03M, 41.1 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 0.701 mmol, 816 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-6-[3-(2,6-Dichloro-4-methyl-phenoxy)-pyrrolidin-1-yl]-5′,6′-dihydro-2′H-[3,4′]bipyridinyl-1′,3′-dicarboxylic Acid 1′-tert-butyl Ester 3′-methyl Ester | 6.83 g, 52% | COC(=O)C=1CN(CCC1C=1C=NC(=CC1)N1C[C@H](CC1)OC1=C(C=C(C=C1Cl)C)Cl)C(=O)OC(C)(C)C | C28H33Cl2N3O5
